US05556864
53(a) 1-t-Butoxycarbonyl-4-(2-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}ethyl)piperidine
Following a procedure similar to that described in Example 40(a), 1.20 g of 2-[2-(3-methoxyphenyl) ethyl]phenol (prepared as described in Preparation 20), 2.00 g of 1-t-butoxycarbonyl-4-[2-(p-toluenesulfonyloxy)ethyl]piperidine and 0.590 g of potassium t-butoxide were reacted in 20 ml of dimethylacetamide. The mixture was then worked up as described in Example 40(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.00 g (yield 86%) of the title compound as a colorless oil.

reactant | 2-[2-(3-methoxyphenyl) ethyl]phenol | 1.20 g | COC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C15H16O2
reactant | 1-t-butoxycarbonyl-4-[2-(p-toluenesulfonyloxy)ethyl]piperidine | 2.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H29NO5S
reactant | potassium t-butoxide | 0.590 g | CC(C)([O-])C.[K+]
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 1-t-Butoxycarbonyl-4-(2-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}ethyl)piperidine | 2.00 g, yield 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=C(C=CC=C1)CCC1=CC(=CC=C1)OC | C27H37NO4
